US07259183B2
Preparation of 6-Fluoro-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(3,5-difluoro-phenyl)-ethyl]-amide
To a solution of 80 mg (0.45 mmol) of 6-fluoro-1H-indole-7-carboxylic acid and 143 mg of TBTU (0.45 mmol) in 5 ml DMF, were added 0.38 ml (2.23 mmol) of N,N-diisopropylethyl amine. After stirring for 5 min at rt, 176 mg (0.58 mmol) of (4-tert-butyl-benzyl)-[2-(3,5-difluoro-phenyl)-ethyl]-amine were added. After stirring for 17 h at rt, the reaction mixture was diluted with 50 ml water and extracted with 2×50 ml EtOAc. The combined organic phases were washed with water and brine, dried with magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography (40 g silica gel; EtOAc/heptane 1:4) to give 166 mg light brown foam (78%). MS 464.1 (M)

reactant | 6-fluoro-1H-indole-7-carboxylic acid | 0.45 mmol, 80 mg | FC1=CC=C2C=CNC2=C1C(=O)O | C9H6FNO2
reactant | TBTU | 0.45 mmol, 143 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diisopropylethyl amine | 2.23 mmol, 0.38 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (4-tert-butyl-benzyl)-[2-(3,5-difluoro-phenyl)-ethyl]-amine | 0.58 mmol, 176 mg | C(C)(C)(C)C1=CC=C(CNCCC2=CC(=CC(=C2)F)F)C=C1 | C19H23F2N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
product | 6-Fluoro-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(3,5-difluoro-phenyl)-ethyl]-amide | 166 mg, 78% | C(C)(C)(C)C1=CC=C(CN(C(=O)C=2C(=CC=C3C=CNC23)F)CCC2=CC(=CC(=C2)F)F)C=C1 | C28H27F3N2O
